### PR TITLE
chore: sync algebra.monoid algebra.basic

### PR DESCRIPTION
**Pull request by joneugster**
---

* [`algebra.monoid_algebra.basic`@`6623e6af705e97002a9054c1c05a980180276fc1`..`57e09a1296bfb4330ddf6624f1028ba186117d82`](https://leanprover-community.github.io/mathlib-port-status/file/algebra/monoid_algebra/basic?range=6623e6af705e97002a9054c1c05a980180276fc1..57e09a1296bfb4330ddf6624f1028ba186117d82)

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by Parcly-Taxel** [comment]
Is this not #3059?

File: Mathlib/Algebra/MonoidAlgebra/Basic.lean [hunk 1]
```diff
@@ -563,6 +563,20 @@ theorem mul_single_one_apply [MulOneClass G] (f : MonoidAlgebra k G) (r : k) (x
...
+    rw [mul_apply, Finsupp.sum_comm, Finsupp.sum_single_index]
+    swap
+    · simp_rw [Finsupp.sum, MulZeroClass.mul_zero, ite_self, Finset.sum_const_zero]
+    · apply Finset.sum_eq_zero
+      simp_rw [ite_eq_right_iff]
+      rintro g'' _ rfl
+      exfalso
+      exact h ⟨_, rfl⟩
+#align monoid_algebra.mul_single_apply_of_not_exists_mul
+  MonoidAlgebra.mul_single_apply_of_not_exists_mul
```
Comment (eric-wieser) [inline Mathlib/Algebra/MonoidAlgebra/Basic.lean:578]: For future reference; `align`s should not be line-wrapped, as we have CI scripts that scrape them assuming they fall on a single line.

**Comment by joneugster** [comment]
> Is this not #3059?

My bad, missed that PR when the #port-dashport was stuck
